US08349851B2
To crude (3,4-difluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone (553 mg, 1.5 mmol) in 1:1 MeOH/THF (40 mL) at 0° C. was added sodium borohydride (0.09 g, 2.4 mmol), and the solution was stirred for 30 min, after which 6N HCl was added. The mixture was concentrated to dryness, and ca. ⅔ of the residue was purified by silica gel chromatography eluting with 0-15% MeOH/DCM to afford (3,4-difluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanol (34 mg). 1H NMR (300 MHz, DMSO-d6) δ 2.26 (s, 3H) 6.03 (s, 1H) 6.22 (s, 1H) 7.45-7.55 (m, 2H) 7.66 (t, 1H) 7.78 (t, 1H) 8.07 (t, 1H) 8.19 (t, 1H) 8.82 (d, 1H) 12.09 (bs, 1H) 12.67 (bs, 1H); LC-MS (ESI) m/z 368 (M+H)+.

reactant | (3,4-difluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone | 1.5 mmol, 553 mg | FC=1C=C(C=CC1F)C(=O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | C19H13F2N5O
reactant | sodium borohydride | 2.4 mmol, 0.09 g | [BH4-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | MeOH THF | 40 mL | CO.C1CCOC1
product | (3,4-difluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanol | 34 mg | FC=1C=C(C=CC1F)C(O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | C19H15F2N5O
